US04239769
[[5-(N,N-Dimethylaminomethyl)2-thienyl]methoxy]acetamide
A solution of [[5-(N,N-dimethylaminomethyl)2-thienyl]methoxy] acetic acid ethyl ester (4.0 g) in a mixture of 0.88 ammonia solution (75 ml) and ethanol (75 ml) was stirred for 1 hr at room temperature. The solvent was removed and the residue recrystallised from a 1:1 mixture of benzene and petroleum spirit (b.p. 60°-80°) to afford a white crystalline solid (3.2 g) m.p. 86.5°-95°. NMR (CDCl3) 7.71, s, (6H); 6.38, s, (2H); 6.00, s, (2H); 5.30, s, (2H); 3.5, br, (2H); 3.12, q, (2H).

reactant | [[5-(N,N-dimethylaminomethyl)2-thienyl]methoxy] acetic acid ethyl ester | 4.0 g | C(C)OC(COCC=1SC(=CC1)CN(C)C)=O | C12H19NO3S
reactant | ammonia | 75 ml | N | H3N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | [[5-(N,N-Dimethylaminomethyl)2-thienyl]methoxy]acetamide | 3.2 g | CN(C)CC1=CC=C(S1)COCC(=O)N | C10H16N2O2S
